US04371696
Using the above procedure 2-(4-pyridyl)ethyl chloride is reacted with methyl 2-mercaptoacetate to yield methyl 2-[2-(4-pyridyl)ethylthio]acetate.

reactant | 2-(4-pyridyl)ethyl chloride | N1=CC=C(C=C1)CCCl | C7H8ClN
reactant | methyl 2-mercaptoacetate | SCC(=O)OC | C3H6O2S
product | methyl 2-[2-(4-pyridyl)ethylthio]acetate | N1=CC=C(C=C1)CCSCC(=O)OC | C10H13NO2S
